US08044062B2
To a solution of ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate (65 g) in THF (1000 mL) and triethylamine (110 mL, 0.81 mole) was added ethylamine (2.0 M in THF, 0.81 mole) at 0° C. This reaction mixture was stirred at room temperature overnight and then solvents were removed on a rotary evaporator. H2O was added and the mixture extracted with ethyl acetate several times. Solvents from the combined organic layers were removed on a rotary evaporator affording 58 g (86% yield) of ethyl 4-(ethylamino)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate. This material was used as such without further purification.

reactant | ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 65 g | ClC1=NC(=NC(=C1C(=O)OCC)C)SC | C9H11ClN2O2S
reactant | triethylamine | 0.81 mole, 110 mL | C(C)N(CC)CC | C6H15N
reactant | ethylamine | 0.81 mole, 2.0 M | C(C)N | C2H7N
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
product | ethyl 4-(ethylamino)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 58 g, 86% yield | C(C)NC1=NC(=NC(=C1C(=O)OCC)C)SC | C11H17N3O2S
